US08629137B2
Step 3: 1-{1-[6-(4-benzyloxy-3,5-dimethyl-benzoyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
170 mg (0.779 mmol) 1-piperidin-4-yl-1,3-dihydro-imidazo[4,5-b]pyridin-2-one, 270 mg (0.727 mmol) (4-benzyloxy-3,5-dimethyl-phenyl)-(6-chloro-pyrimidin-4-yl)-methanone and 0.200 mL (1.42 mmol) TEA were combined in 2.0 mL DMF and stirred overnight at RT. The reaction mixture was stirred into ice water, the precipitate was suction filtered and dried.

reactant | 1-piperidin-4-yl-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | 0.779 mmol, 170 mg | N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C11H14N4O
reactant | (4-benzyloxy-3,5-dimethyl-phenyl)-(6-chloro-pyrimidin-4-yl)-methanone | 0.727 mmol, 270 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C(=O)C1=NC=NC(=C1)Cl)C | C20H17ClN2O2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 1-{1-[6-(4-benzyloxy-3,5-dimethyl-benzoyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)C2=CC(=NC=N2)N2CCC(CC2)N2C(NC3=NC=CC=C32)=O)C=C1C)C | C31H30N6O3
